US09193697B2
To a solution of methyl 4-{5-[(4-chlorophenyl)sulfanyl]-1,3-oxazol-2-yl}cyclohexanecarboxylate (3.762 g, 10.69 mmol) in DCM (107 ml) was added NBS (2.093 g, 11.76 mmol) and the reaction mixture was stirred at RT for 16 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography (silica 330 g, 0 to 25% EtOAc in hexane), to give methyl 4-{4-bromo-5-[(4-chlorophenyl)sulfanyl]-1,3-oxazol-2-yl}cyclohexanecarboxylate (3.5 g), as a ca. 2:1 mixture of trans/cis isomers. LCMS: M+H 430.

reactant | methyl 4-{5-[(4-chlorophenyl)sulfanyl]-1,3-oxazol-2-yl}cyclohexanecarboxylate | 10.69 mmol, 3.762 g | ClC1=CC=C(C=C1)SC1=CN=C(O1)C1CCC(CC1)C(=O)OC | C17H18ClNO3S
reactant | NBS | 11.76 mmol, 2.093 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 107 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-{4-bromo-5-[(4-chlorophenyl)sulfanyl]-1,3-oxazol-2-yl}cyclohexanecarboxylate | 3.5 g | BrC=1N=C(OC1SC1=CC=C(C=C1)Cl)C1CCC(CC1)C(=O)OC | C17H17BrClNO3S
